US06706703B2
1,4-Bis(5-bromo-2-pyridyl)hexahydro-1,4-diazepine
To a solution of hexahydro-1,4-diazepine (2.84 g, 28.4 mmol) in dimethylformamide (14 mL) were added 2,5-dibromopyridine (16.23 g, 68.5 mmol) and potassium carbonate powdered in a mortar (8.00 g, 57.9 mmol), and the resultant mixture was stirred at 120° for 15 hours. Water was added to the reaction mixture, and the mixture was extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel to yield crude crystals of the title compound (7.67 g, yield: 66%). The crude crystals were recrystallized from chloroform-hexane to give colorless fine needles (melting point: 178.0-181.0° C.).

reactant | hexahydro-1,4-diazepine | 28.4 mmol, 2.84 g | N1CCNCCC1 | C5H12N2
reactant | 2,5-dibromopyridine | 68.5 mmol, 16.23 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | dimethylformamide | 14 mL | CN(C=O)C | C3H7NO
product | 1,4-Bis(5-bromo-2-pyridyl)hexahydro-1,4-diazepine | 7.67 g, yield: 66% | BrC=1C=CC(=NC1)N1CCN(CCC1)C1=NC=C(C=C1)Br | C15H16Br2N4
